US07049310B2
a) 7-Benzyloxy-1-methyl-1H-indole
According to the procedure of Preparation 13 (a), except substituting 7-benzyloxyindole for the 3-methylindole, the title compound (4.8 g, 100%) was obtained as an amber oil: MS (ES) m/e 238.0 (M+H)+.

reactant | 7-benzyloxyindole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | 3-methylindole | CC1=CNC2=CC=CC=C12 | C9H9N
product | 7-Benzyloxy-1-methyl-1H-indole | 4.8 g, 100% | C(C1=CC=CC=C1)OC=1C=CC=C2C=CN(C12)C | C16H15NO
